US04695649
Octyl p-hydroxybenzoate and terephthalic dichloride are allowed to react and treated in a similar procedure to Example 4. The residue obtained is recrystallized from ethyl acetate-chloroform (1:1) to give di(p-octyloxycarbonylphenyl)terephthalate, m.p. 108°-110° C., as white crystals.

reactant | Octyl p-hydroxybenzoate | OC1=CC=C(C(=O)OCCCCCCCC)C=C1 | C15H22O3
reactant | terephthalic dichloride | C(C1=CC=C(C(=O)Cl)C=C1)(=O)Cl | C8H4Cl2O2
product | di(p-octyloxycarbonylphenyl)terephthalate | C(CCCCCCC)OC(=O)C1=CC=C(C=C1)OC(C1=CC=C(C(=O)OC2=CC=C(C=C2)C(=O)OCCCCCCCC)C=C1)=O | C38H46O8
